US05128448
A mixture of (E)-3-(3-quinolinyl)-2-propenoic acid methyl ester (3.6 g, 16.9 mmol) and 5% Pd/C (0.4 g) in EtOAc (300 mL) was hydrogenated at atmospheric pressure. Upon sessation of hydrogen uptake, the catalyst was separated by filtration through a pad of Celite and the filtrate was evacuated to dryness to give the crude product (3.48 g) which was purified via flash chromatography eluting with a mixture of CH2Cl2 and ether (1:1) to give 3-quinolinepropanoic acid methyl ester (2.77 g, 12.9 mmol) in 76% yield as a glass.

reactant | (E)-3-(3-quinolinyl)-2-propenoic acid methyl ester | 16.9 mmol, 3.6 g | COC(\C=C\C=1C=NC2=CC=CC=C2C1)=O | C13H11NO2
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | 3-quinolinepropanoic acid methyl ester | 12.9 mmol, 2.77 g, 76% yield | COC(CCC=1C=NC2=CC=CC=C2C1)=O | C13H13NO2
